US08912188B2
To a solution of 5-bromo-3-methyl-1H-indazole (400 mg, 1.90 mmol) in DMSO (10 mL) was added 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (959 mg, 3.78 mmol), KOAc (400 mg, 4.08 mmol), Pd(dppf)Cl2 (100 mg). After stirring for 6 h at 85° C., the mixture was dissolved in water (50 mL), extracted with ethyl acetate (3×20 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified by a silica gel column with 10% ethyl acetate in petroleum ether to afford 3-methyl-5-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole as a off-white solid (700 mg, crude).

reactant | 5-bromo-3-methyl-1H-indazole | 1.90 mmol, 400 mg | BrC=1C=C2C(=NNC2=CC1)C | C8H7BrN2
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 3.78 mmol, 959 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 4.08 mmol, 400 mg | CC(=O)[O-].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 100 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-methyl-5-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | CC1=NNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C14H19BN2O2
